US08283353B2
N-[4-(1-methylethoxy)phenyl]-1H-pyrazol-5-amine
To a suspension of 1-benzyl-N-[4-(1-methylethoxy)phenyl]-1H-pyrazol-5-amine (0.80 g) and palladium hydroxide (10 wt %, 0.80 g) in ethanol (4.5 mL)-acetic acid (0.5 mL) was added ammonium formate (0.49 g) at 80° C. After stirring at 80° C. for 2 hr, the mixture was allowed to cool, ethyl acetate was added, and the insoluble material was filtered off. Saturated aqueous sodium hydrogen carbonate solution was added to the filtrate, and the mixture was extracted with ethyl acetate. The organic layer was washed with water and saturated brine, dried over anhydrous magnesium sulfate, and concentrated. The residue was purified by silica gel column chromatography to give the title compound as a pale-yellow amorphous solid (0.37 g, 66%).

reactant | 1-benzyl-N-[4-(1-methylethoxy)phenyl]-1H-pyrazol-5-amine | 0.80 g | C(C1=CC=CC=C1)N1N=CC=C1NC1=CC=C(C=C1)OC(C)C | C19H21N3O
reactant | acetic acid | 0.5 mL | C(C)(=O)O | C2H4O2
reactant | ammonium formate | 0.49 g | C(=O)[O-].[NH4+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ethanol | 4.5 mL | C(C)O | C2H6O
catalyst | palladium hydroxide | 0.80 g | [OH-].[Pd+2].[OH-]
product | N-[4-(1-methylethoxy)phenyl]-1H-pyrazol-5-amine | 0.37 g, 66% | CC(C)OC1=CC=C(C=C1)NC1=CC=NN1 | C12H15N3O
